US04115396
Intermediate, 4-chloro-2,6-lutidine-1-oxide
Following the procedure of Example 1, Part B, but substituting 4-nitro-2,6-lutidine-1-oxide [as prepared by Ochiai, J. Org. Chem. 18, p. 534 (1953)] for 6-amino-4-nitro-2-picoline-1-oxide, there was prepared 4-chloro-2,6-lutidine-1-oxide hydrochloride.

reactant | 6-amino-4-nitro-2-picoline-1-oxide | NC=1C=C(C=C([N+]1[O-])C)[N+](=O)[O-] | C6H7N3O3
reactant | 4-chloro-2,6-lutidine-1-oxide hydrochloride | Cl.ClC=1C=C([N+](=C(C1)C)[O-])C
product | 4-chloro-2,6-lutidine-1-oxide | ClC=1C=C([N+](=C(C1)C)[O-])C | C7H8ClNO
